US05171891
The experiment described in Example 30 was repeated for dibenzylsulfoxide in methanol medium for one hour at 400° C. An oxidation product (methylbenzoate) was observed in 20% yield in addition to toluene and bibenzyl which were formed to any extent of 30% and 50%, respectively. Elemental sulfur was also observed in the product and sulfur dioxide and hydrogen sulfide were detected in the gas phase and the liquid phase.

reactant | dibenzylsulfoxide | C(C1=CC=CC=C1)S(=O)CC1=CC=CC=C1 | C14H14OS
reactant | methylbenzoate | COC(C1=CC=CC=C1)=O | C8H8O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | bibenzyl | 20% yield | C1(=CC=CC=C1)CCC1=CC=CC=C1 | C14H14
